US06632919B1
Benzo[b][1,8]napthyridin-2(1H)-one 3 Acetic Acid
To a solution of THF (15 mL) and LDA (2M in THF, 15.9 mmol, 7.95 mL), cooled to −78° C., was slowly added a solution of di-t-butyl succinate (15.9 mmol, 3.28 g) in THF (3.0 mL). After 15 minutes at −78° C. 3-Formyl-2-pivaloylaminoquinoline (1.92 g, 7.50 mmol) dissolved in THF (10 mL) was added. The clear yellow solution was stirred at −78° C. for 15 minutes and then allowed to warm to room temperature. The solution was poured into saturated aqueous ammonium chloride (200 mL) and extracted with dichloromethane (2×100 mL). The organic phase was dried (MgSO4) and evaporated in vacuo. The crude product of diastereomeric alcohols was heated to reflux for 24 hours in a mixture of THF (5 mL) and HCl (3M, aqueous) and then poured into water (100 mL) and neutralized with K2CO3. The tan precipitate was washed with water (2×25 mL) and dried in vacuo overnight. The crude product (1.60 g) was heated in acetonitrile (50 mL) and filtered while hot. The product was washed with ether (2×25 mL) and dried in vacuo to give 1.50 g (79%) of a material judged to be 61% pure according to HPLC (260 nm).

reactant | LDA | 15.9 mmol, 2M, 7.95 mL | [Li+].CC(C)[N-]C(C)C
reactant | di-t-butyl succinate | 15.9 mmol, 3.28 g | C(CCC(=O)OC(C)(C)C)(=O)OC(C)(C)C | C12H22O4
reactant | 3-Formyl-2-pivaloylaminoquinoline | 7.50 mmol, 1.92 g | C(=O)C=1C(=NC2=CC=CC=C2C1)NC(C(C)(C)C)=O | C15H16N2O2
reactant | ammonium chloride | 200 mL | [Cl-].[NH4+]
solvent | THF | 3.0 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | THF | 15 mL | C1CCOC1 | C4H8O
product | Benzo[b][1,8]napthyridin-2(1H)-one | 1.50 g, 79% | N1C(C=CC=2C=C3C(=NC12)C=CC=C3)=O | C12H8N2O
